US05217958
B. (S)-N-(1-Oxo-3-phenylpropyl)-L-leucine
L-Leucine (7.87 g, 60 mmol) was dissolved in a solution of sodium hydroxide (4.8 g, 120 mmol) in water (40 ml, 1.5M). Diethyl ether (40 ml) was added. The mixture was cooled in an ice bath and while stirring rapidly, hydrocinnamoyl chloride (10.1 g, 8.92 ml, 60 mmol) was added dropwise over a period of 30 minutes. The ice bath was removed and the mixture was stirred at room temperature 2 hours, maintaining a slightly basic pH by periodic addition of small amounts of 1N sodium hydroxide solution. The layers were separated. The ether layer was reextracted with 1N sodium hydroxide solution. The combined aqueous layers were washed once with ether and then acidified with concentrated hydrochloric acid. The product was extracted into chloroform, dried over magnesium sulfate, and freed of solvent in vacuo leaving a white solid (13.36 g). This material was recrystallized from ethyl acetate (65 ml) to give 8.37 g of the title B compound (53%), m.p. 129°-130° C. [α]D =-41.3° (c=1.3, MeOH).

reactant | L-Leucine | 60 mmol, 7.87 g | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
reactant | sodium hydroxide | 120 mmol, 4.8 g | [OH-].[Na+]
reactant | Diethyl ether | 40 ml | C(C)OCC | C4H10O
reactant | hydrocinnamoyl chloride | 60 mmol, 8.92 ml, 10.1 g | C(CCC1=CC=CC=C1)(=O)Cl | C9H9ClO
solvent | water | 1.5M, 40 ml | O | H2O
product | (S)-N-(1-Oxo-3-phenylpropyl)-L-leucine | 13.36 g | O=C(CCC1=CC=CC=C1)N[C@@H](CC(C)C)C(=O)O | C15H21NO3
